US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]pentanamide
N-(3-{1-Perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenyl)pentanamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature for 4 h. After neutralization with aqueous NaHCO3, the crude product was extracted in ethyl acetate and purified by preparative HPLC (0.046 g, 51.5% yield over 2 steps): 1H NMR (CD3OD) δ 8.65 (t, 1H), 8.23 (br s, 1H), 8.07 (t, 1H), 8.0 (dd, 1H), 7.66 (dd, 2H), 7.60 (dd, 1H), 7.41 (t, 1H), 2.34 (t, 2H), 1.63 (quintet, 2H), 1.35 (sextet, 2H), 0.90 (t, 3H); ES-MS (m/z) 361 [M+H]+.

reactant | N-(3-{1-Perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenyl)pentanamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(CCCC)=O | C44H42N6O2
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]pentanamide | 51.5% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CCCC)=O | C20H20N6O
